US05095038
A mixture of methyl 4-[7-(1-hydroxyallyl)naphth-1-ylmethyl]-3-methoxybenzoate (2.4 g), N,N-dimethylacetamide dimethyl acetal (1.62 ml) and toluene (50 ml) was refluxed for 12 hours. Evaporation and flash chromatgraphy, eluting with a gradient of 1) 3:3:2 petroleum ether:methylene chloride:ethyl acetate, 2) 1:1:1 petroleum ether:methylene chloride:ethyl acetate, and 3) 6:6:7 petroleum ether:methylene chloride:ethyl acetate, afforded methyl 4-[7-[4-(dimethylcarbamoyl)but-1-enyl]naphth-1-ylmethyl]-3-methoxybenzoate (90%) as a light yellow syrup; MS(CI), m/e=432(M+H).

reactant | methyl 4-[7-(1-hydroxyallyl)naphth-1-ylmethyl]-3-methoxybenzoate | 2.4 g | OC(C=C)C1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC | C23H22O4
reactant | N,N-dimethylacetamide dimethyl acetal | 1.62 ml | COC(C)(N(C)C)OC | C6H15NO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 4-[7-[4-(dimethylcarbamoyl)but-1-enyl]naphth-1-ylmethyl]-3-methoxybenzoate | 90% | CN(C(=O)CCC=CC1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC)C | C27H29NO4
